US07897773B2
0.241 g of 1,2,3,4-tetrahydroquinoline, 20 ml of dichloromethane and 0.24 ml of triethylamine are placed in a 50 ml round-bottomed flask under a nitrogen atmosphere. 0.178 g of triphosgene is added at 0° C. and then the reaction mixture is left to stir at ambient temperature for 3 h. 0.34 g of 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane dihydrochloride and 1.19 ml of triethylamine are subsequently added and the reaction mixture is then refluxed for three hours. 200 ml of a saturated aqueous solution of sodium hydrogen carbonate are added and the aqueous phase is then extracted three times with dichloromethane. The organic phases are combined, dried over sodium sulfate and evaporated under reduced pressure. The residue is chromatographed on silica gel with a 9/1 mixture of dichloromethane/methanol. 0.04 g of 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline is obtained.

reactant | 1,2,3,4-tetrahydroquinoline | 0.241 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | triphosgene | 0.178 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-pyridin-4-yl-8-azabicyclo[3.2.1]octane dihydrochloride | 0.34 g | Cl.Cl.N1=CC=C(C=C1)C1CC2CCC(C1)N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 1.19 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[(4-pyridin-3-yl-8-azabicyclo[3.2.1]oct-8-yl)carbonyl]-1,2,3,4-tetrahydroquinoline | 0.04 g | N1=CC(=CC=C1)C1CCC2CCC1N2C(=O)N2CCCC1=CC=CC=C21 | C22H25N3O
